* A dual opamp ngspice model
* file name: LM358-dual.lib
.subckt MC1458_ti 1out 1in- 1in+ vcc- 2in+ 2in- 2out vcc+
.include MC1458.lib
XU1A 1in+ 1in- vcc+ vcc- 1out MC1458
XU1B 2in+ 2in- vcc+ vcc- 2out MC1458
.ends